US05296486
DL-N-(Benzothiazol-2-yl)phenylalanine hydrochloride
11.8 g phenylalanine (71.4 mmol) was added in portions to a suspension of 5.7 g powdered NaOH (143 mmol) in 50 mL DMSO, and stirred under nitrogen. 2-Chlorobenzothiazole (11 g, 65 mmol) was added over fifteen minutes at room temperature. The reaction was heated on an oil bath at about 95° C. for 4 hours. The reaction mixture was then cooled, poured into 200 mL ice and water, and the pH of the resulting mixture was adjusted to about 1-2 by addition of 10N HCl.

reactant | phenylalanine | 71.4 mmol, 11.8 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | NaOH | 143 mmol, 5.7 g | [OH-].[Na+]
reactant | 2-Chlorobenzothiazole | 65 mmol, 11 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | HCl | 10N | Cl | ClH
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N-(Benzothiazol-2-yl)phenylalanine hydrochloride | Cl.S1C(=NC2=C1C=CC=C2)N[C@@H](CC2=CC=CC=C2)C(=O)O | InChI=1S/C16H14N2O2S.ClH/c19-15(20)13(10-11-6-2-1-3-7-11)18-16-17-12-8-4-5-9-14(12)21-16;/h1-9,13H,10H2,(H,17,18)(H,19,20);1H/t13-;/m0./s1
